US05369098
(cis)-3-(6-Amino-9H-purin-9-yl)cyclobutanemethanol
To a solution of 720 mg (2.0 mmol) of 3[[(4-methylphenyl)sulfonyl]oxy]cyclobutanemethanol, benzoate ester (95% trans isomer and 5% cis isomer) in 20 ml of dry dimethylformamide under nitrogen was added adenine (405 mg, 3 mmol), 18-crown-6 (528 mg, 2 mmol), and potassium carbonate (414 mg, 3 mmol). The mixture was stirred at 110° for 18 hours and then concentrated in vacuo to a residue. Water was added and the suspension was adjusted to pH 7.0 using 1N hydrochloric acid. Removal of solvent in vacuo gave a residue, which was chromatographed over 200 ml of LPS-1 silica gel using 4% methanol in dichloromethane to give 430 mg of desired product as a white solid.

reactant | 3[[(4-methylphenyl)sulfonyl]oxy]cyclobutanemethanol | 2.0 mmol, 720 mg | CC1=CC=C(C=C1)S(=O)(=O)OC1CC(C1)CO | C12H16O4S
reactant | adenine | 3 mmol, 405 mg | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | 18-crown-6 | 2 mmol, 528 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | 3 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (cis)-3-(6-Amino-9H-purin-9-yl)cyclobutanemethanol | 430 mg | NC1=C2N=CN(C2=NC=N1)[C@H]1C[C@H](C1)CO | C10H13N5O
